US03957362
Glycidyl methacrylate is immiscible with water, but as the reaction proceeds, solubility is increased until a clear solution is obtained. As the reaction proceeds, glyceryl methacrylate is formed which co-dissolves the unreacted glycidyl methacrylate.

reactant | Glycidyl methacrylate | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | water | O | H2O
product | glyceryl methacrylate | C(C(=C)C)(=O)OCC(O)CO | C7H12O4
